US06570025B1
To a solution of the 2-[2-(3-chloropropionylthio)-ethyl]-1,3-dithiolane (127 g, 0.49 mole) obtained as described above and dissolved in acetone (200 g) in a glass-made 1-L reaction vessel, triethylamine (74 g, 0.73 mole) was added dropwise at 25° C. over 1 hour. After the contents were stirred and reacted at 25° C. for 6 hours, toluene (400 g) and water (400 g) were added to the reaction mixture, and a toluene layer with the reaction product extracted therein was allowed to separate and was taken out. The toluene solution was washed with a 5 wt. % aqueous solution of hydrochloric acid, and the resulting mixture was washed with water until the water layer became neutral. Toluene was then distilled off under reduced pressure to afford the target compound, 2-(2′-acryloylthioethyl)-1,3-dithiolane, (106 g) as a colorless viscous clear liquid. Yield: 80%, purity>99% [analyzed by liquid chromatography (percent by area method)]. 1H-NMR δ (CDCl3): 2.0-2.1 (m, 2H), 2.5-2.7 (m, 2H), 3.2-3.3 (m, 4H), 4.7-4.8 (t, 1H), 5.0-7.0 (m, 3H). FD-MS: 220(M).

reactant | 2-[2-(3-chloropropionylthio)-ethyl]-1,3-dithiolane | 0.49 mole, 127 g | ClCCC(=O)SCCC1SCCS1 | C8H13ClOS3
reactant | triethylamine | 0.73 mole, 74 g | C(C)N(CC)CC | C6H15N
reactant | toluene | 400 g | C1(=CC=CC=C1)C | C7H8
reactant | water | 400 g | O | H2O
solvent | acetone | 200 g | CC(=O)C | C3H6O
product | 2-(2′-acryloylthioethyl)-1,3-dithiolane | 106 g, Yield: 80% | C(C=C)(=O)SCCC1SCCS1 | C8H12OS3
